US08703784B2
A mixture of 3-aminopyrazole (19.3 mmol, 1.61 g) and 3-oxo-3-(tetrahydro-2H-thiopyran-4-yl)propanenitrile (21.3 mmol, 3.60 g) in acetic acid (40 mL) was heated at 100° C. in a sealed tube overnight. After cooling to rt, all the volatiles were removed under reduced pressure to afford 5-(tetrahydro-2H-thiopyran-4-yl)pyrazolo[1,5-a]pyrimidin-7-amine as a light brownish oil. LCMS tR=0.59 Min. Mass calculated for, M+ 234.1, observed LC/MS m/z 235.1 (M+H).

reactant | 3-aminopyrazole | 19.3 mmol, 1.61 g | NC1=NNC=C1 | C3H5N3
reactant | 3-oxo-3-(tetrahydro-2H-thiopyran-4-yl)propanenitrile | 21.3 mmol, 3.60 g | O=C(CC#N)C1CCSCC1 | C8H11NOS
solvent | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
product | 5-(tetrahydro-2H-thiopyran-4-yl)pyrazolo[1,5-a]pyrimidin-7-amine | S1CCC(CC1)C1=NC=2N(C(=C1)N)N=CC2 | C11H14N4S
